US05270309
Treatment of 3-(1-methylethyl)aniline (6.0 g) with diethylacetylenedicarboxylate (7.1 ml), as described in Example 1b, gave ethyl 5-(1-methylethyl)-4-oxo-1,4-dihydroquinoline-2-carboxylate (0.23 g), mp 176°-178° C., δ (360 MHz, DMSO-d6) 1.19 (6H, d (CH3)2), 1.36 (3H, t, CO2CH2CH3), 4.41 (2H, q, CO2CH2), 4.84 (1H, m, CH(CH3)2), 6.56 (1H, S, 3-H). 7.28 (1H, d, 6-H), 7.58 (1H, t, 7-H), 7.79 (1H, d, 8-H) and 11.80 (1H, bs, NH), and ethyl 7-(1-methylethyl)-4-oxo-1,4-dihydroquinoline-2-carboxylate (1.17 g) mp 186°-188° C., (360 MHz, DMSO-d6) 1.25 (6H, d, (CH3)2),1.35 (3H, t, CH2CH3), 3.00 (1H, m, CH(CH3)2), 4.42 (2H, q, CH2), 6.63 (1H, S, 3-H), 7.29 (1H, d, 6-H), 7.80 (1H, s, 8-H), 8.00 (1H, d, 5-H) and 11.86 (1H, bs, NH).

reactant | 3-(1-methylethyl)aniline | 6.0 g | CC(C)C=1C=C(N)C=CC1 | C9H13N
reactant | diethylacetylenedicarboxylate | 7.1 ml | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
product | ethyl 5-(1-methylethyl)-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.23 g | CC(C)C1=C2C(C=C(NC2=CC=C1)C(=O)OCC)=O | C15H17NO3
